US07897597B2
Concentrated hydrochloric acid (18 mL) was added to a solution of tert-butyl [4-(4-amino-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate (9.0 g, 18 mmol) in ethanol (100 mL), and the reaction was stirred for 15 minutes. The ethanol was removed under reduced pressure, and the residue was twice dissolved in ethanol and concentrated under reduced pressure. The solid residue was stirred with brine (25 mL) and water (100 mL), and the pH of the mixture was adjusted to 14 with the addition of 50% aqueous sodium hydroxide. Dichloromethane was added, and the layers were separated. The aqueous layer was extracted twice with dichloromethane (100 mL) and twice with chloroform (100 mL). The combined organic fractions were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 7.00 g of 1-(4-aminobutyl)-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white powder.

reactant | hydrochloric acid | 18 mL | Cl | ClH
reactant | tert-butyl [4-(4-amino-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | 18 mmol, 9.0 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNC(OC(C)(C)C)=O)CC)OCC2=CC=CC=C2 | C28H35N5O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(4-aminobutyl)-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.00 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)OCC2=CC=CC=C2)N)CC | C23H27N5O
